US06498165B1
Step A: 5-Methoxycarbonylbenzimidazole
To a suspension of benzimidazole-5-carboxylic acid (100 mg, 0.616 mmol, 1 eq) in MeOH (4 mL) was added a 2N solution of trimethylsilyldiazomethane in hexanes (3×0.3 mL, 1.8 mmol, 3 eq). Nitrogen evolution was evident. Eventually a yellow color persisted. The reaction was quenched by the addition of a small amount of acetic acid. The MeOH was removed under reduced pressure and the mixture was purified by preparative thin layer chromatography (eluted with 7% MeOH in CH2Cl2) giving 66 mg of the desired product.

reactant | benzimidazole-5-carboxylic acid | 0.616 mmol, 100 mg, 1 eq | N1=CNC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | MeOH | 4 mL | CO | CH4O
product | 5-Methoxycarbonylbenzimidazole | 66 mg | COC(=O)C1=CC2=C(N=CN2)C=C1 | C9H8N2O2
